US04130568
A solution of 100 mg. (0.38 mmole) of 2-ethoxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one in 2 ml. of formic acid was heated at 100° for 30 min. The reaction was cooled and evaporated to leave a residue which was filtered through alumina using benzene/ethyl acetate, 4:1 to yield, upon evaporation of the filtrate, pure 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one, mp 145°-146°.

reactant | 2-ethoxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one | 0.38 mmole | C(C)OC1CC=2C(=C(C3=C(C=CC(O3)=O)C2)OC)O1 | C14H14O5
solvent | formic acid | C(=O)O | CH2O2
product | 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one | COC1=C2C(=CC=3C=CC(OC31)=O)C=CO2 | C12H8O4
